US07253174B2
4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile
4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde oxime (7.20 g, 30.38 mmol) was added to neat thionyl chloride (29.63 g, 245 mmol), then the mixture was heated to reflux for 4 hours. The reaction mixture was poured onto ice-water. The precipitate of 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile was collected and dried (Yield=6.15 g, 92%). 1H-NMR (300 MHz, CDCl3) δ 2.75(s, 3H).

reactant | 4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde oxime | 30.38 mmol, 7.20 g | ClC1=NC(=NC(=C1C=NO)Cl)SC | C6H5Cl2N3OS
reactant | thionyl chloride | 245 mmol, 29.63 g | S(=O)(Cl)Cl | Cl2OS
product | 4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
